* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.015474168095285377
Fd1_1 0 s1 V1 -0.7737084047642688
Gr1_1_1 0 s1 x1_a1 0 16766474181.336666
Gr2_1_1 0 s1 x2_a1 0 940400777861.9369
Gd1_2 0 s1 p2 0 -0.007470994828839877
Fd1_2 0 s1 V2 -0.3735497414419939
Gr1_1_2 0 s1 x1_a2 0 -16289530808.033571
Gr2_1_2 0 s1 x2_a2 0 1741076910940.084
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.729007070252916e-11
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 2.2323734610997948e-13
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.007470994828839877
Fd2_1 0 s2 V1 -0.3735497414419939
Gr1_2_1 0 s2 x1_a1 0 -16289530808.033571
Gr2_2_1 0 s2 x2_a1 0 1741076910940.084
Gd2_2 0 s2 p2 0 -0.015699637223024067
Fd2_2 0 s2 V2 -0.7849818611512033
Gr1_2_2 0 s2 x1_a2 0 16157696847.61044
Gr2_2_2 0 s2 x2_a2 0 1002312072009.5927
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.729007070252916e-11
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 2.2323734610997948e-13
.ENDS s_equivalent
